US04356118
L-Valyl-valyl-tryptophan hydrochloride
The title compound was prepared using the previously described process using the following reagants: 0.85 grams (1.7 mmoles) t-butyloxycarbonyl-Valyl-valyl-tryptophan, 6 ml glacial acetic acid and 3 ml 5.68 N HCl in dioxane Total yield was 0.75 grams (100 percent). Anaylsis calculated for C21H30N4O4.HCl.1/3 H2O: C, 56.69; H, 7.17; N, 12.59. Found: C, 57.06; H, 7.3; N, 12.17.

reactant | t-butyloxycarbonyl-Valyl-valyl-tryptophan | 1.7 mmoles, 0.85 grams | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C26H38N4O6
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
reactant | HCl | 5.68 N, 3 ml | Cl | ClH
reactant | H2O | O | H2O
solvent | dioxane | yield was 0.75 grams | O1CCOCC1 | C4H8O2
product | L-Valyl-valyl-tryptophan hydrochloride | Cl.N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | InChI=1S/C21H30N4O4.ClH/c1-11(2)17(22)19(26)25-18(12(3)4)20(27)24-16(21(28)29)9-13-10-23-15-8-6-5-7-14(13)15;/h5-8,10-12,16-18,23H,9,22H2,1-4H3,(H,24,27)(H,25,26)(H,28,29);1H/t16-,17-,18-;/m0./s1
